US08227478B2
A mixture of 4-[4-(4-bromoindol-1-yl)-pyrimidin-2-ylamino]-cyclohexane-carboxylic acid ethyl ester (5.8 g) and LiOH.H2O (1.65 g) in THF (100 mL), EtOH (40 mL) and H2O (30 mL) was stirred at RT overnight. The reaction mixture was then acidified with citric acid (7.54 g in 20 mL H2O), and stirred at RT for 1 h. The precipitate was filtered, washed with water, then Et2O, and dried to provide 4-[4-(4-bromoindol-1-yl)-pyrimidin-2-ylamino]-cyclo-hexanecarboxylic acid (5.27 g, 97%) as a white powder.

reactant | 4-[4-(4-bromoindol-1-yl)-pyrimidin-2-ylamino]-cyclohexane-carboxylic acid ethyl ester | 5.8 g | C(C)OC(=O)C1CCC(CC1)NC1=NC=CC(=N1)N1C=CC2=C(C=CC=C12)Br | C21H23BrN4O2
reactant | LiOH.H2O | 1.65 g | O[Li].O
reactant | citric acid | 20 mL, 7.54 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOH | 40 mL | CCO | C2H6O
solvent | H2O | 30 mL | O | H2O
product | 4-[4-(4-bromoindol-1-yl)-pyrimidin-2-ylamino]-cyclo-hexanecarboxylic acid | 5.27 g, 97% | BrC1=C2C=CN(C2=CC=C1)C1=NC(=NC=C1)NC1CCC(CC1)C(=O)O | C19H19BrN4O2
